US07144906B2
Methyl 2-methyl-2-[6-(2-phenyloxazol-4-yl)hexyloxy]-propionate
A mixture of 956 mg of benzamide and 1.1 g of methyl 2-(8-chloro-7-oxooctyloxy)-2-methylpropionate was stirred for 2 hours at 120° C. The reaction solution was cooled, dissolved in ethyl acetate, washed by adding sodium hydrogencarbonate, washed with water, dried over anhydrous magnesium sulfate and concentrated. The residue was purified by silica gel column chromatography (Wakogel® C-200, n-hexane: ethyl acetate=9:1) to provide 658 mg of the objective compound as colorless oil.

reactant | benzamide | 956 mg | C(C1=CC=CC=C1)(=O)N | C7H7NO
reactant | methyl 2-(8-chloro-7-oxooctyloxy)-2-methylpropionate | 1.1 g | ClCC(CCCCCCOC(C(=O)OC)(C)C)=O | C13H23ClO4
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Methyl 2-methyl-2-[6-(2-phenyloxazol-4-yl)hexyloxy]-propionate | 658 mg | CC(C(=O)OC)(C)OCCCCCCC=1N=C(OC1)C1=CC=CC=C1 | C20H27NO4
